US09216999B2
[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methanol
The reactions in Synthetic Examplea 140 were carried out in substantially the same manners except that 1-(trans-4-{[(tert-butyldimethylsilyl)oxy]methyl}cyclohexyl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine obtained in Reference Synthetic Examplea 92 was used instead of 1-(4-{[(tert-butyldimethylsilyl)oxy]methyl}phenyl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine to give the title compound as a pale yellow solid (2.05 g, yield 78%). (alternative to Synthetic Examplea 10).

reactant | 1-(trans-4-{[(tert-butyldimethylsilyl)oxy]methyl}cyclohexyl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC[C@H](CC1)C=1N=NN2C=NC3=C(C21)C=CN3 | C20H31N5OSi
reactant | 1-(4-{[(tert-butyldimethylsilyl)oxy]methyl}phenyl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)C=1N=NN2C=NC3=C(C21)C=CN3 | C20H25N5OSi
product | [trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methanol | 2.05 g, yield 78% | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)CO | C14H17N5O
